US06048868
EXAMPLE 33 1MDHCARBO7: 9-methoxy-12-methyl-1,2,3,4,6,7,12, 12b-octahydroindolo[2,3-a]quinolizin4-one
Hydrogenation of 9-methoxy-12-methyl-2,3,4,6,7,1 2-hexahydroindolo[2,3-a]quinolizin-4-one with hydrogen in the presence of palladium-on-charcoal and sodium bicarbonate leadsto9-methoxy-12-methyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3a]quinolizin-4-one

reactant | 9-methoxy-12-methyl-2,3,4,6,7,1 2-hexahydroindolo[2,3-a]quinolizin-4-one | COC=1C=C2C(=CC1)N(C1=C2CCN2C(CCC=C12)=O)C | C17H18N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 9-methoxy-12-methyl-1,2,3,4,6,7,12, 12b-octahydroindolo[2,3-a]quinolizin4-one | COC=1C=C2C(=CC1)N(C1=C2CCN2C(CCCC12)=O)C | C17H20N2O2
